* SKY130 CIM 8T SRAM Bitcell
* 6T storage core + 2T decoupled read port for compute-in-memory
* Parameterized for autonomous optimization

* NOTE: .lib corner is substituted by evaluate.py
.lib "sky130_models/sky130.lib.spice" {corner}

* Supply
Vdd vdd 0 DC {Vsupply}
Vss vss 0 DC 0

* === 6T SRAM Storage Core ===

* Cross-coupled inverter 1 (left): PL + NL
XMPL q qb vdd vdd sky130_fd_pr__pfet_01v8 W={Wp}u L={Lp}u nf=1
XMNL q qb vss vss sky130_fd_pr__nfet_01v8 W={Wn}u L={Ln}u nf=1

* Cross-coupled inverter 2 (right): PR + NR
XMPR qb q vdd vdd sky130_fd_pr__pfet_01v8 W={Wp}u L={Lp}u nf=1
XMNR qb q vss vss sky130_fd_pr__nfet_01v8 W={Wn}u L={Ln}u nf=1

* Write access transistors (gated by write wordline WWL)
XMAXL blw wwl q vss sky130_fd_pr__nfet_01v8 W={Wax}u L=0.15u nf=1
XMAXR blbw wwl qb vss sky130_fd_pr__nfet_01v8 W={Wax}u L=0.15u nf=1

* === 2T Decoupled Read Port (CIM Compute) ===
* RD1: gate = Q (stored bit), drain = BL, source = mid_rd
* RD2: gate = WL (wordline/input), drain = mid_rd, source = VSS
* Current path: BL -> RD1 -> mid_rd -> RD2 -> VSS

XMRD1 bl q mid_rd vss sky130_fd_pr__nfet_01v8 W={Wrd}u L={Lrd}u nf=1
XMRD2 mid_rd wl vss vss sky130_fd_pr__nfet_01v8 W={Wrd}u L={Lrd}u nf=1

* === Test Bench: Write a 1, then measure read current ===

* Write phase: drive Q=1 (BLW=VDD, BLBW=0, WWL=VDD for 5ns, then off)
Vblw blw 0 PWL(0 {Vsupply} 5n {Vsupply} 5.1n 0)
Vblbw blbw 0 PWL(0 0 5n 0 5.1n 0)
Vwwl wwl 0 PWL(0 {Vsupply} 5n {Vsupply} 5.1n 0)

* Read phase: WL steps high at 10ns, BL precharged to VDD
Vwl wl 0 PWL(0 0 10n 0 10.1n {Vsupply})
Vbl bl 0 DC {Vsupply}

* Sense current through Vbl (BL is voltage source, measure its current)

.options reltol=0.003 method=gear
.temp {temperature}

* === Measurements ===
.control

* Transient simulation — write then read
tran 0.05n 30n

* Measure read current at steady state (25ns, well after WL rises at 10ns)
meas tran i_read find i(Vbl) at=25n

* Measure storage node voltages after write (verify cell holds data)
meas tran q_val find v(q) at=9n
meas tran qb_val find v(qb) at=9n

* Measure storage nodes during read (verify no read disturb)
meas tran q_read find v(q) at=25n
meas tran qb_read find v(qb) at=25n

* Measure time for read current to reach 90% of steady state
let i_steady = vec(i(Vbl))[length(vec(i(Vbl)))-1]
let i_90pct = 0.9 * i_steady

* Rise time of read current after WL goes high
meas tran t_wl_rise when v(wl)={Vsupply}/2 rise=1
meas tran t_i90 when i(Vbl)=i_90pct cross=1

echo "RESULT_I_READ $&i_read"
echo "RESULT_Q_VAL $&q_val"
echo "RESULT_QB_VAL $&qb_val"
echo "RESULT_Q_READ $&q_read"
echo "RESULT_QB_READ $&qb_read"
echo "RESULT_T_WL_RISE $&t_wl_rise"
echo "RESULT_T_I90 $&t_i90"
echo "RESULT_DONE"
.endc

.end
